US04847256
A mixture of 1.87 g of (3-amino-1H-pyrazol-4-yl)phenylmethanone (prepared as described in U.S. Patent application Ser. No. 612,811, filed May 24, 1984), 1.64 g of malonaldehyde bis(dimethyl acetal) and 25 ml of glacial acetic acid was heated at reflux for 6 hours. The solvent was evaporated and the solid was worked up as described in Example 50 and gave 1.70 g of phenylpyrazolo[1,5-a]pyrimidin-3-yl-methanone, mp 174°-175° C.

reactant | (3-amino-1H-pyrazol-4-yl)phenylmethanone | 1.87 g | NC1=NNC=C1C(=O)C1=CC=CC=C1 | C10H9N3O
reactant | malonaldehyde bis(dimethyl acetal) | 1.64 g | COC(CC(OC)OC)OC | C7H16O4
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | phenylpyrazolo[1,5-a]pyrimidin-3-yl-methanone | 1.70 g | C1(=CC=CC=C1)C(=O)C=1C=NN2C1N=CC=C2 | C13H9N3O
